US07968573B2
A mixture of 0.88 g of 6-chloro-2-[1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one, 0.19 ml of hydrazine monohydrate and 3 ml of tetrahydrofuran was stirred at room temperature for 2 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 0.94 g of N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazole-5-carboxamide of the formula:

reactant | 6-chloro-2-[1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.88 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=C(C=CC=C2)Cl)C(F)(F)F)=O)C1)C | C19H10Cl2F3N3O2
reactant | hydrazine monohydrate | 0.19 ml | O.NN
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazole-5-carboxamide | 0.94 g | ClC1=CC(=C(C(=C1)C)NC(=O)C1=CC(=NN1C1=C(C=CC=C1)Cl)C(F)(F)F)C(=O)NN | C19H14Cl2F3N5O2
